US06313312B1
(E)-3-(3-Nitrophenyl)-2-buten-1-ol
To a solution of ethyl (E)-3-(3-nitrophenyl)-2-butenoate (Preparation 1, 102 g, 0.43 mol) in toluene (1400 ml) at −10° C. under nitrogen was added dropwise over 3 h diisobutylaluminium hydride (1.0 M in toluene, 1 l), then the mixture was stirred at 0° C. for 1 h. Water (400 ml) was carefully added, followed by sodium hydrogen carbonate (300 g). The resulting slurry was vigorously stirred for 10 min, then ethyl acetate (2 l) was added, and the mixture stirred for 1 h. The mixture was dried (MgSO4), filtered and concentrated in vacuo to give the title compound as a pale brown oil (81 g, 97%).

reactant | ethyl (E)-3-(3-nitrophenyl)-2-butenoate | 0.43 mol, 102 g | [N+](=O)([O-])C=1C=C(C=CC1)/C(=C/C(=O)OCC)/C | C12H13NO4
reactant | diisobutylaluminium hydride | 1.0 M, 1 l | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Water | 400 ml | O | H2O
reactant | sodium hydrogen carbonate | 300 g | C(O)([O-])=O.[Na+]
solvent | toluene | 1400 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 2 l | C(C)(=O)OCC | C4H8O2
product | (E)-3-(3-Nitrophenyl)-2-buten-1-ol | 81 g, 97% | [N+](=O)([O-])C=1C=C(C=CC1)/C(=C/CO)/C | C10H11NO3
